US08232409B2
C. 3-[5-(2-Chloro-phenyl)-7-trifluoromethyl-1H-benzimidazol-2-yl]-1-oxa-2-aza-spiro[4.5]dec-2-ene hydrochloride
3-[5-(2-Chloro-phenyl)-7-trifluoromethyl-1H-benzimidazol-2-yl]-1-oxa-2-aza-spiro[4.5]dec-2-ene (1.14 g, 2.63 mmol, as prepared in the previous step) was placed in a 100 mL round-bottom flask, and EtOAc (10 mL) was added. HCl (1 eq., 2.60 mL, 2.63 mmol, 1 M solution in ether) was added via syringe. The solvent was removed under reduced pressure, and the solid was dried under high vacuum for 3 days, yielding 1.12 g (90%) of the desired compound. 1H-NMR (400 MHz, d6-DMSO) δ: 7.80 (s, 1H), 7.60-7.66 (m, 1H), 7.59 (s, 1H), 7.52-7.58 (m, 1H), 7.43-7.51 (m, 2H), 1.61-1.82 (m, 6H), 1.32-1.59 (m, 4H). Mass Spectrum (LCMS, ESI pos.): Calcd. for C22H19ClF3N3O: 434.1 (M+H). found: 434.2.

reactant | 3-[5-(2-Chloro-phenyl)-7-trifluoromethyl-1H-benzimidazol-2-yl]-1-oxa-2-aza-spiro[4.5]dec-2-ene | ClC1=C(C=CC=C1)C1=CC2=C(NC(=N2)C2=NOC3(C2)CCCCC3)C(=C1)C(F)(F)F | C22H19ClF3N3O
reactant | HCl | 2.63 mmol, 1 M, 2.60 mL, 1 eq. | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 3-[5-(2-Chloro-phenyl)-7-trifluoromethyl-1H-benzimidazol-2-yl]-1-oxa-2-aza-spiro[4.5]dec-2-ene hydrochloride | 1.12 g, 90% | Cl.ClC1=C(C=CC=C1)C1=CC2=C(NC(=N2)C2=NOC3(C2)CCCCC3)C(=C1)C(F)(F)F | InChI=1S/C22H19ClF3N3O.ClH/c23-16-7-3-2-6-14(16)13-10-15(22(24,25)26)19-17(11-13)27-20(28-19)18-12-21(30-29-18)8-4-1-5-9-21;/h2-3,6-7,10-11H,1,4-5,8-9,12H2,(H,27,28);1H
